US06949542B2
[2-{3-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example J13) (240 mg, 0.78 mmol) and 3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K10) (293 mg, 0.89 mmol) according to the general procedure M. Obtained as a red foam (288 mg, 66%).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.78 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC(F)(F)F)N)=O | C13H17F3N2O3
reactant | 3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.89 mmol, 293 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O | C19H21NO4
product | [2-{3-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O)=O | C28H28F3N3O6
